US08431604B2
132.1 2-chloro-6-methoxy-benzylbromide
To 13.0 g (84.92 mmol) 3-chloro-2-methylanisole in 80 ml CCl4 at reflux were added 0.4 g dibenzoyl peroxide and then, subsequently and portion-wise, a mixture of 15.2 g N-bromosuccinimide and 0.4 g dibenzoyl peroxide. After completion of reaction the mixture was evaporation-concentrated, the residue was dissolved in dichloromethane, was sequentially washed with water and saturated NaCl solution, was dried over MgSO4, was filtered and again evaporation-concentrated. 20.8 yellow oil.

reactant | 3-chloro-2-methylanisole | 84.92 mmol, 13.0 g | ClC=1C(=C(C=CC1)OC)C | C8H9ClO
reactant | dibenzoyl peroxide | 0.4 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | N-bromosuccinimide | 15.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoyl peroxide | 0.4 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 80 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-chloro-6-methoxy-benzylbromide | ClC1=C(CBr)C(=CC=C1)OC | C8H8BrClO
